US09260414B2
[(S)-1-((S)-2-{4-[4′-({6-[(R)-4-((S)-2,2-Dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
A mixture of (S)-(+)-2,2-dimethylcyclopropane carboxylic acid (2.09 mg, 0.018 mmol) and HATU (8.35 mg, 0.022 mmol) was stirred in DMA (1.0 mL, 11 mmol) for 10 min. and then ((S)-1-{(S)-2-[4-(5′-fluoro-4′-{[6-((R)-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester tri-TFA (20.0 mg, 0.018 mmol, Preparation 41) and N,N-diisopropylethylamine (15.94 uL, 0.091 mmol) were added. The reaction mixture was stirred at RT overnight, concentrated by rotary evaporation, dissolved in 1:1 acetic acid:water (1.5 mL), filtered, and purified by preparative HPLC to provide the di-TFA salt of the title compound (4.8 mg). (m/z): [M+H]+ calcd for C44H50F4N8O5 847.38 found 847.4.

reactant | (S)-(+)-2,2-dimethylcyclopropane carboxylic acid | 0.018 mmol, 2.09 mg | CC1([C@H](C1)C(=O)O)C | C6H10O2
reactant | HATU | 0.022 mmol, 8.35 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMA | 11 mmol, 1.0 mL | CC(=O)N(C)C | C4H9NO
reactant | ((S)-1-{(S)-2-[4-(5′-fluoro-4′-{[6-((R)-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester tri-TFA | 0.018 mmol, 20.0 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)NC(=O)C=1C=NC(=CC1)N1[C@@H](CNCC1)C)C(F)(F)F)=O
reactant | N,N-diisopropylethylamine | 0.091 mmol, 15.94 uL | C(C)(C)N(C(C)C)CC | C8H19N
product | [(S)-1-((S)-2-{4-[4′-({6-[(R)-4-((S)-2,2-Dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 4.8 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)NC(=O)C=1C=NC(=CC1)N1[C@@H](CN(CC1)C(=O)[C@@H]1C(C1)(C)C)C)C(F)(F)F)=O | C44H50F4N8O5
